US07291616B2
Alternatively, to a solution of 2,5-dichloro-iodobenzene (3.1 g, 11.4 mmol), hexamethylphosphoramide (6.6 ml) and tetrahydrofuran (20 ml), cooled to −78° C., was added a solution of tert-butyl lithium in pentane (1.7 M, 8.7 ml, 14.8 mmol) over 20 minutes. After stirring at −78° C. for 3 hours, a solution of cyanuric chloride (3.14 g, 17.1 mmol) in tetrahydrofuran (15 ml) was added over 15 minutes. After stirring at −78° C. for 1 hour, the mixture was warmed to −20° C. over 30 minutes. The reaction was quenched by slow addition of hydrochloric acid (1 M, 20 ml). The mixture was diluted with water (50 ml) and extracted with dichloromethane (3×40 ml). The combined extracts were washed with water (2×50 ml), dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with dichloromethane-hexane (3:5) to provide 2,4-dichloro-6-(2,5-dichloro-phenyl)-[1,3,5]triazine (1.98 g, 59% yield).

reactant | 2,5-dichloro-iodobenzene | 11.4 mmol, 3.1 g | ClC1=C(C=C(C=C1)Cl)I | C6H3Cl2I
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | pentane | 14.8 mmol, 1.7 M, 8.7 ml | CCCCC | C5H12
reactant | cyanuric chloride | 17.1 mmol, 3.14 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 6.6 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,4-dichloro-6-(2,5-dichloro-phenyl)-[1,3,5]triazine | 1.98 g, 59% yield | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)Cl | C9H3Cl4N3
